US09212171B2
Step 2: (RS)-Benzyl 1,5,5-trimethyl-2-oxo-3-(5-(phenylethynyl)pyrimidin-2yl)-pyrrolidine-3-carboxylate
A solution of (RS)-benzyl 1,5,5-trimethyl-2-oxopyrrolidine-3-carboxylate (206 mg, 787 μmol) in 4 ml of dry DMF was purged with argon and cooled to 0° C. Then a 60% suspension of sodium hydride (31.5 mg, 0.79 mmol) was added and the mixture was stirred for 40 min at room temperature whereby a white suspension was formed. Then 2-chloro-5-(phenylethynyl)pyrimidine (CAS: [1051388-40-9]) (130 mg, 606 μmol) was added, the mixture was stirred for 30 min at 80° C., and then quenched by addition of 1 ml of saturated ammonium chloride solution. After extraction with ethyl acetate/water, drying over sodium sulfate and concentration; the residue (440 mg, yellow oil) was taken up in ethyl acetate, adsorbed onto 3 g of silicagel and loaded onto a 20 g prepacked flash chromatography column. After elution with a 10% to 60% ethyl acetate in heptane gradient, the fractions containing the desired product were collected to yield 212 mg (80%) of the title compound as a light yellow waxy solid, MS: m/e=440.3 (M+H+).

reactant | (RS)-benzyl 1,5,5-trimethyl-2-oxopyrrolidine-3-carboxylate | 787 μmol, 206 mg | CN1C(C(CC1(C)C)C(=O)OCC1=CC=CC=C1)=O | C15H19NO3
reactant | sodium hydride | 0.79 mmol, 31.5 mg | [H-].[Na+]
reactant | 2-chloro-5-(phenylethynyl)pyrimidine | 606 μmol, 130 mg | ClC1=NC=C(C=N1)C#CC1=CC=CC=C1 | C12H7ClN2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (RS)-Benzyl 1,5,5-trimethyl-2-oxo-3-(5-(phenylethynyl)pyrimidin-2yl)-pyrrolidine-3-carboxylate | 212 mg, 80% | CN1C(C(CC1(C)C)(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=N1)C#CC1=CC=CC=C1)=O | C27H25N3O3
